US04233035
5-octylsalicylaldehyde was prepared as follows: p-octyl phenol (20.6 g) was dissolved in dry methylene chloride (400 cm3). The solution was cooled in an ice bath, stirred and treated carefully with titanium tetrachloride (44 cm3). 1,1-Dichloromethyl methyl ether (30 cm3) was then added dropwise to the cooled stirred solution. After the addition was complete, the temperature was raised to 40° C. and stirring continued for a further 15 minutes. The mixture was then poured into crushed ice (500 g) and the organic layer extracted with ether. The ethereal solution was washed several times with water, dried over anhydrous sodium sulpate and evaporated. The oily residue was purified by fractional distillation under vacuum to give 5-octylsalicylaldehyde as a colourless liquid which solidified at 30° C.

reactant | p-octyl phenol | 20.6 g | C(CCCCCCC)C1=CC=C(C=C1)O | C14H22O
reactant | 1,1-Dichloromethyl methyl ether | 30 cm3 | COC(Cl)Cl | C2H4Cl2O
solvent | methylene chloride | 400 cm3 | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 44 cm3 | [Ti](Cl)(Cl)(Cl)Cl
product | 5-octylsalicylaldehyde | C(CCCCCCC)C1=CC=C(C(C=O)=C1)O | C15H22O2
